US04547556
iBMA/BMA/BA/AA/MAOE-LO//40/27.5/10/12.5/10
One hundred twenty-five parts of butyl Cellosolve is heated to 150° C. and a monomer mix consisting of 200 parts of isobutyl methacrylate, 137.5 parts of n-butyl methacrylate, 50 parts of n-butyl acrylate, 62.5 parts of acrylic acid and 50 parts of methacryloxyethyl esters of linseed oil fatty acids and an initiator solution consisting of 1.5 parts of t-butyl perbenzoate dissolved in 10 parts of butyl Cellosolve are added to the 150° C. solvent over three hours at a constant rate. Reaction temperature is held at 150±2° C. throughout the gradual additions and for 15 minutes after the addition of an initiator chaser solution consisting of 3 parts of t-butyl perbenzoate dissolved in 10 parts of butyl Cellosolve. The polymer solution is then cooled to 100° C. and diluted with 174 parts of isopropanol.

reactant | isobutyl methacrylate | C(C(=C)C)(=O)OCC(C)C | C8H14O2
reactant | n-butyl methacrylate | C(C(=C)C)(=O)OCCCC | C8H14O2
reactant | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | t-butyl perbenzoate | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
solvent | butyl Cellosolve | CCCCOCCO | C6H14O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | iBMA | CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C | C14H22O2
